US09403839B2
A solution of 4-(5-fluoro-3-pyridyl)-4-hydroxy-1-[1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidylidene]butan-2-one (475 mg, 1.08 mmol) in dichloromethane (15 mL) was cooled to 0° C. and treated with Dess-Martin periodinane (457 mg, 1.08 mmol). The reaction mixture was stirred for 30 min and was treated with additional Dess-Martin periodinane (150 mg, 0.35 mmol). The reaction mixture was stirred for 30 min and was quenched by the addition of saturated aqueous sodium sulfite. The mixture was extracted with dichloromethane (3×50 mL) and the combined organics were washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified on silica gel utilizing a gradient of 60-100% ethyl acetate in hexanes to yield 1-(5-fluoro-3-pyridyl)-4-[1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidylidene]butane-1,3-dione (317 mg). 1H NMR (400 MHz, CDCl3) δ 16.25 (br s, OH), 8.81 (t, J=1.5 Hz, 1H), 8.52 (d, J=2.8 Hz, 1H), 7.82 (ddd, J=9.0, 2.7, 1.8 Hz, 1H), 7.18 (dd, J=11.4, 3.0 Hz, 2H), 6.76 (d, J=8.1 Hz, 1H), 6.08 (s, 1H), 5.86 (s, 1H), 4.50 (m, 1H), 3.65 (br s, 4H), 3.02 (br s, 2H), 2.36 (br s, 2H), 2.14 (s, 3H), 1.28 (d, J=6.0 Hz, 6H). ESI-MS m/z calc. 438.20, found 439.5 (M+1)+; Retention time: 2.15 minutes as a colorless oil (3 min run).

reactant | 4-(5-fluoro-3-pyridyl)-4-hydroxy-1-[1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidylidene]butan-2-one | 1.08 mmol, 475 mg | FC=1C=C(C=NC1)C(CC(C=C1CCN(CC1)C(C1=CC(=C(C=C1)OC(C)C)C)=O)=O)O | C25H29FN2O4
reactant | Dess-Martin periodinane | 1.08 mmol, 457 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.35 mmol, 150 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(5-fluoro-3-pyridyl)-4-[1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidylidene]butane-1,3-dione | 317 mg | FC=1C=C(C=NC1)C(CC(C=C1CCN(CC1)C(C1=CC(=C(C=C1)OC(C)C)C)=O)=O)=O | C25H27FN2O4
